US04626543
Methyl 2,2-Dimethyl-3-oxobutanoate
To a mixture of 20.86 g of 20 mesh zinc metal, 165 ml of 120:210 by volumes ether:benzene and 0.05 g of mercuric chloride was added a few drops of a solution of 26.64 g of methyl alpha-bromoisobutyrate and 18.72 g of acetic anhydride followed by brief heating with a heat gun to initiate the reaction. The remaining solution was added slowly at reflux. After addition was complete, the mixture was refluxed for 21/2 hrs, cooled, poured over 12 ml concentrated HCl mixed with ice, and extracted with ether. The combined extract was washed with water, dried (MgSO4) and stripped to give 23.15 g of a yellow oil. Distillation yielded 15.41 g of the desired product as a colorless oil, b.p. 32° C. (1 mm Hg).

reactant | ether | CCOCC | C4H10O
reactant | methyl alpha-bromoisobutyrate | 26.64 g | BrC(C(=O)OC)(C)C | C5H9BrO2
reactant | acetic anhydride | 18.72 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | 12 ml | Cl | ClH
catalyst | zinc | [Zn] | Zn
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Methyl 2,2-Dimethyl-3-oxobutanoate | 23.15 g | CC(C(=O)OC)(C(C)=O)C | C7H12O3
